US05506239
A solution of 0.22 g of 6-(3-isothiocyanatopropoxy)carbostyril and 0.3 g of 1-[2-(cyclooctylmethylamino)ethyl]-4-methoxymethoxypiperidine in 30 ml of chloroform was stirred at room temperature for 5 hours. The solvent was removed by distillation under reduced pressure. The resulting residue was purified by a silica gel column chromatography (eluant: 3% methanol/dichloromethane) to obtain 0.36 g of 6-[3-{N-2-(4-methoxymethoxy-1-piperidinyl)ethyl-N-cyclooctylmethylamino}-thiocarbonylaminopropoxy]carbostyril.

reactant | 6-(3-isothiocyanatopropoxy)carbostyril | 0.22 g | N(=C=S)CCCOC=1C=C2C=CC(NC2=CC1)=O | C13H12N2O2S
reactant | 1-[2-(cyclooctylmethylamino)ethyl]-4-methoxymethoxypiperidine | 0.3 g | C1(CCCCCCC1)CNCCN1CCC(CC1)OCOC | C18H36N2O2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-[3-{N-2-(4-methoxymethoxy-1-piperidinyl)ethyl-N-cyclooctylmethylamino}-thiocarbonylaminopropoxy]carbostyril | 0.36 g | COCOC1CCN(CC1)CCN(CC1CCCCCCC1)C(CCOC=1C=C2C=CC(NC2=CC1)=O)N=C=S | C31H46N4O4S
